US05661153
6-Amino-3-methyl-1-phenyluracil as obtained in Reference Example 1 (8.7 g, 40 mM) was dissolved in 80 ml of acetic acid and hydrochloric acid (16 ml) was added, followed by heating at 100° C. for 1 hour. The solvent acetic acid was then distilled off under reduced pressure and water war added to the residue. The pH of the resulting solution was adjusted to 1 by adding hydrochloric acid and a product was extracted with dichloromethane. After the solvent dichloromethane was distilled off under reduced pressure from the dichloromethane layer, crystallization with ethanol was performed to give 6-hydroxy-3-methyl-1-phenyluracil (yield: 5.9 g, or 68% based on 6-amino-3-methyl-1-phenyluracil).

reactant | 6-Amino-3-methyl-1-phenyluracil | NC1=CC(N(C(N1C1=CC=CC=C1)=O)C)=O | C11H11N3O2
reactant | hydrochloric acid | 16 ml | Cl | ClH
reactant | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 6-hydroxy-3-methyl-1-phenyluracil | yield: 5.9 g, 68% | OC1=CC(N(C(N1C1=CC=CC=C1)=O)C)=O | C11H10N2O3
